US06780872B2
4-(3-bromo-4-fluorophenyl)-1-ethyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridin-3,5(6H,8H)-dione
2H-Pyran-3,5(4H,6H)-dione (0.11 g, 1 mmol), 3bromo-4-fluoro-benzaldehyde (0.2 g, 1 mmol), and 5-amino-1-ethyl-1,2-dihydropyrazol-3-one (0.12 g, 1 mmol) were processed as described in Example 26C to provide 0.1 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 1.2 (t, 3H), 3.82 (q, 2H), 3.99 (s, 2H), 4.52 (q, 2H), 4.96 (s, 1H), 7.18 (m, 1H), 7.21 (t, 1H), 7.39 (dd, 1H), 9.65 (bs, 1H), 10.52 (s, 1H); MS (ESI) m/z 406 (M−H)−; Anal. calcd for C17H15N3BrFO3.0.5 C2H5OH: C, 50.13; H, 4.21; N, 9.74. Found: C, 49.94; H, 3.96; N, 9.21.

reactant | 2H-Pyran-3,5(4H,6H)-dione | 1 mmol, 0.11 g | O1CC(CC(C1)=O)=O | C5H6O3
reactant | 3bromo-4-fluoro-benzaldehyde | 1 mmol, 0.2 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 5-amino-1-ethyl-1,2-dihydropyrazol-3-one | 1 mmol, 0.12 g | NC1=CC(NN1CC)=O | C5H9N3O
product | 4-(3-bromo-4-fluorophenyl)-1-ethyl-1,2,4,9-tetrahydropyrano[3,4-b]pyrazolo[4,3-e]pyridin-3,5(6H,8H)-dione | 0.1 g | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1C(NN3CC)=O)COCC2=O | C17H15BrFN3O3
